US09145415B2
To 10% palladium-carbon (100 mg), a solution of tert-butyl 3-((3-nitrophenyl)amino)piperidine-1-carboxylate (C21, 229 mg) in tetrahydrofuran (10 mL) and methanol (4 mL) was added at room temperature, and the mixture was stirred at room temperature for 1 hour under a hydrogen atmosphere. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure to obtain tert-butyl 3-((3-aminophenyl)amino)piperidine-1-carboxylate (C22, 211 mg).

reactant | tert-butyl 3-((3-nitrophenyl)amino)piperidine-1-carboxylate | 229 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1CN(CCC1)C(=O)OC(C)(C)C | C16H23N3O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | tert-butyl 3-((3-aminophenyl)amino)piperidine-1-carboxylate | 211 mg | NC=1C=C(C=CC1)NC1CN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
